US07259177B2
4.5 g of tert-butyl 2-[cis-3-(tert-butyidimethylsilanyloxymethyl)cyclohexyl-methoxy]-2-methylpropionate (synthesis analogously to tert-butyl 2-[cis-3-(tert-butyldimethylsilanyloxymethyl)cyclohexylmethoxy]-2-methylpropionate in Example 55) are dissolved in 85 ml of THF, 2.24 g of TBAF trihydrate are added and the mixture is stirred at 60° C. for 90 min. Water and MTBE are added, the phases are separated and the organic phase is dried over MgSO4 and concentrated. The residue is chromatographed on silica gel (heptane/ethyl acetate 1:1), which gives 1.45 g of tert-butyl 2-[cis-3-hydroxymethylcyclohexylmethoxy]-2-methylpropionate. C16H30O4 (286.42), MS (ESI): 287 (MH+).

reactant | tert-butyl 2-[cis-3-(tert-butyidimethylsilanyloxymethyl)cyclohexyl-methoxy]-2-methylpropionate | 4.5 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1C[C@H](CCC1)COC(C(=O)OC(C)(C)C)(C)C | C22H44O4Si
reactant | Water | O | H2O
reactant | MTBE | CC(C)(C)OC | C5H12O
solvent | THF | 85 ml | C1CCOC1 | C4H8O
product | tert-butyl 2-[cis-3-hydroxymethylcyclohexylmethoxy]-2-methylpropionate | 1.45 g | OC[C@H]1C[C@H](CCC1)COC(C(=O)OC(C)(C)C)(C)C | C16H30O4
